US07173129B2
Ex-13C: 5-Bromo-2-hydroxy-4-methoxybenzaldehyde (Ex-13B, 1.5 g, 6.5 mmol) and thiophene-2-boronic acid (0.91 g, 7.1 mmol) were dissolved in tetrahydrofuran (15 mL). Nitrogen was bubbled into the solution for 10 min followed by the sequential addition of potassium fluoride (0.80 g, 14 mmol, spray-dried) and bis(tri-t-butylphosphine)palladium (0) (0.033 g, 0.065 mmol). The solution was immediately heated to 60° C. and aged for 1.5 h. Upon completion, as determined by HPLC, the reaction was diluted with water (25 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried over sodium sulfate and concentrated to a brown solid. Silica gel chromatography (ethyl acetate/hexanes, 1:3) gave 1.46 g (97%) of 2-hydroxy-4-methoxy-5-thien-2-ylbenzaldehyde as a yellow solid, mp 118–119° C. 1H-NMR (300 MHz, CDCl3) δ 11.48 (s, 1H), 9.79 (s, 1H), 7.72 (s, 1H), 7.37 (d, 1H, J=3.6 Hz), 7.31 (dd, 1H, J=5.1, 1.5 Hz), 7.08 (dd, 1H, J=5.1, 3.6 Hz), 6.54 (s, 1H), 3.98 (s, 3H). MS (ESI) m/z 235 ([M+H]+, 100%). Anal. Calcd. for C8H7O3S: C, 61.52; H, 4.30; S, 13.69; Found: C, 61.12; H, 4.34; S, 13.56.

reactant | 5-Bromo-2-hydroxy-4-methoxybenzaldehyde | 6.5 mmol, 1.5 g | BrC=1C(=CC(=C(C=O)C1)O)OC | C8H7BrO3
reactant | thiophene-2-boronic acid | 7.1 mmol, 0.91 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | potassium fluoride | 14 mmol, 0.80 g | [F-].[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.065 mmol, 0.033 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-hydroxy-4-methoxy-5-thien-2-ylbenzaldehyde | 1.46 g, 97% | OC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1 | C12H10O3S
